US07160884B2
(a) Preparation of 1-(4-methoxybenzyl)-1H-[1,2,3]triazolo[4,5-g]phthalazin-4,9-dione
333 mg (2.07 mmol) of phthalazin-5,8-dione (1.00 g, 6.20 mmol) and 4-methoxybenzyl azide were dissolved in 60 ml of ethyl acetate, and then refluxed overnight. The solvent was removed under reduced pressure and residue was separated and purified by using column chromatography (ethyl acetate). 415 mg of brown powder was obtained and the yield was 62%.

reactant | phthalazin-5,8-dione | 2.07 mmol, 333 mg | C1=NN=CC=2C(C=CC(C12)=O)=O | C8H4N2O2
reactant | 4-methoxybenzyl azide | COC1=CC=C(CN=[N+]=[N-])C=C1 | C8H9N3O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybenzyl)-1H-[1,2,3]triazolo[4,5-g]phthalazin-4,9-dione | 415 mg, yield was 62% | COC1=CC=C(CN2N=NC3=C2C(C=2C=NN=CC2C3=O)=O)C=C1 | C16H11N5O3
